US04318854
1-(2-Chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one
A mixture of 3.4 g (12.5 mmole) of 1-(2-chlorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one and 28 ml of dimethylformamide dimethyl acetal was refluxed for 2 hr. The mixture was concentrated at reduced pressure and the resulting solid was triturated with ether to give a tan solid, mp 155°-157° C. Recrystallization from a mixture of methylene chloride and ether gave yellow prisms, mp 158°-159° C.

reactant | 1-(2-chlorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one | 12.5 mmole, 3.4 g | ClC1=C(C=CC=C1)C1=NCCC(C2=C1C=CC=C2)=O | C16H12ClNO
reactant | dimethylformamide dimethyl acetal | 28 ml | COC(N(C)C)OC | C5H13NO2
product | 1-(2-Chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | ClC1=C(C=CC=C1)C1=NCC(C(C2=C1C=CC=C2)=O)=CN(C)C | C19H17ClN2O
